US07666878B2
97a) {1-[1-(4-Methanesulfonyl-phenyl)-ethyl]-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl}-acetic acid methyl ester
A solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester ((2.37 g, 11.12 mmol) in dry DMF (38 ml) at room temperature is treated with BEMP (4.39 ml, 15.19 mmol) dropwise. The reaction mixture is stirred at room temperature for 35 minutes and then 1-(1-bromo-ethyl)-4-methanesulfonyl-benzene (4.00 g, 15.18 mmol) and sodium iodide (12.29 g, 15.28 mmol) is added. After stirring at 60° C. for 1 hour, the reaction mixture is allowed to cool to room temperature and then diluted with ethyl acetate/ether (200 ml of a 1:1 mixture) and water (150 ml). The organic portion is washed with brine, dried (Na2SO4) and concentrated in vacuo and the resulting crude is purified by chromatography on silica eluting with ethyl acetate/iso-hexane (2:3 increasing to 1:1 ethyl acetate) to yield the titled product as a racemic mixture. The enantiomers are resolved using a chiralcel OD column eluting with 30% IPA in hexanes to afford enantiomer A (retention time=14.33 minutes) and enantiomer B (retention time=17.68 minutes)

reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | BEMP | 15.19 mmol, 4.39 ml | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 1-(1-bromo-ethyl)-4-methanesulfonyl-benzene | 15.18 mmol, 4.00 g | BrC(C)C1=CC=C(C=C1)S(=O)(=O)C | C9H11BrO2S
reactant | sodium iodide | 15.28 mmol, 12.29 g | [I-].[Na+]
solvent | DMF | 38 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate ether | C(C)(=O)OCC.CCOCC
solvent | water | 150 ml | O | H2O
product | {1-[1-(4-Methanesulfonyl-phenyl)-ethyl]-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl}-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)C(C)C2=CC=C(C=C2)S(=O)(=O)C)C)=O | C20H22N2O4S
